US05079260
A solution of 1-methoxymethyl-9-fluorenecarboxylic acid (3.4 g, 13.4 mmol) in 100 mL of THF was charged with 1M THF solution of BH3 -THF complex (30.0 mL, 30.0 mmol) at 0° C. The reaction mixture was stirred overnight at room temperature then quenched with water (100 mL). The organic layer was washed with 10% potassium carbonate solution, water, brine, dried over magnesium sulfate and evaporated. Short path chromatography of the residual oil (silica, 25% ethyl acetate in hexane) afforded 1-methoxymethyl-9-fluorenemethanol (2.6 g, 79.9%).

reactant | 1-methoxymethyl-9-fluorenecarboxylic acid | 13.4 mmol, 3.4 g | COCC1=CC=CC=2C3=CC=CC=C3C(C12)C(=O)O | C16H14O3
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 1M | C1CCOC1 | C4H8O
product | 1-methoxymethyl-9-fluorenemethanol | 2.6 g, 79.9% | COCC1=CC=CC=2C3=CC=CC=C3C(C12)CO | C16H16O2
